US09238640B2
Preparation of 2-(4-(2-(Azetidin-1-yl)ethoxy)-3,5-dimethylphenyl)-5,7-dimethoxyquinazolin-4(3H)-one
To a suspension of 2-[4-(2-bromoethoxy)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one (216 mg, 0.50 mmol) in DMF (5 mL) was added azetidine (154 mg, 2.70 mmol). The reaction mixture was stirred at room temperature for 2 days. The solid was collected by filtration, washed with methanol, ethyl acetate, and water, and dried under vacuum to give the title compound as a white solid. Yield: 58 mg (28%). MP 204-205° C. 1H NMR (400 MHz, DMSO-d6): δ 7.85 (s, 2H), 6.71 (d, J=2.4 Hz, 1H), 6.49 (d, J=2.4 Hz, 1H), 3.86 (s, 3H), 3.81 (s, 1H), 3.70 (t, J=6.0 Hz, 2H), 3.18 (t, J=6.8 Hz, 4H), 2.70 (t, J=6.0 Hz, 2H), 2.26 (s, 6H), 1.97 (m, 2H). MS (ES) m/z: 410.20 (M+1) (100%).

reactant | 2-[4-(2-bromoethoxy)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one | 0.50 mmol, 216 mg | BrCCOC1=C(C=C(C=C1C)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)C | C20H21BrN2O4
reactant | azetidine | 2.70 mmol, 154 mg | N1CCC1 | C3H7N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(4-(2-(Azetidin-1-yl)ethoxy)-3,5-dimethylphenyl)-5,7-dimethoxyquinazolin-4(3H)-one | N1(CCC1)CCOC1=C(C=C(C=C1C)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)C | C23H27N3O4
